US07060836B2
1-Benzyl-4-piperidinyl methylcarbamate
Methyl isocyanate (8.94 g, 157 mmol) was added to a solution of 1-benzyl-4-piperidinol (10 g, 52.3 mmol) in chloroform (80 ml), and the reaction stirred under reflux for 16 hours. The cooled mixture was concentrated under reduced pressure, the residual solid was triturated from 40–60 petroleum ether, and the product filtered and dried to afford the title compound as a white solid, 1 g. m.p.—106–108° C.

reactant | Methyl isocyanate | 157 mmol, 8.94 g | CN=C=O | C2H3NO
reactant | 1-benzyl-4-piperidinol | 52.3 mmol, 10 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-Benzyl-4-piperidinyl methylcarbamate | CNC(OC1CCN(CC1)CC1=CC=CC=C1)=O | C14H20N2O2
